US06787541B1
5-Methoxy-2-thienyl 2-trifluoromethylthieno[3,2-d]pyrimidin-4-ylmethanone (Example 68)
A suspension of 5-bromo-2-thienyl 2-trifluoromethylthieno[3,2-d]pyrimidin-4-ylmethanone (0.2 g, 0.51 mmol) in MeOH (15 mL) was treated with sodium methoxide (0.11 g, 2.04 mmol), refluxed for 1 h, treated with dioxane (0.1 mL) to aid dissolution, refluxed for 18 h, cooled, treated with water (15 mL) and concentrated in vacuo. The resulting aqueous mixture was extracted with EtOAc (2×25 mL), the combined extracts washed with brine (25 mL), dried (MgSO4), concentrated in vacuo and the resulting red oil dissolved in heptane-EtOAc (50:50), filtered through a pad of SiO2, concentrated in vacuo and the resulting solid recrystallised [heptane-EtOAc (19:1)] to give the title compound (0.124 g, 71%) as a yellow solid.

reactant | 5-bromo-2-thienyl 2-trifluoromethylthieno[3,2-d]pyrimidin-4-ylmethanone | 0.51 mmol, 0.2 g | BrC1=CC=C(S1)C(=O)C=1C2=C(N=C(N1)C(F)(F)F)C=CS2 | C12H4BrF3N2OS2
reactant | sodium methoxide | 2.04 mmol, 0.11 g | C[O-].[Na+]
reactant | dioxane | 0.1 mL | O1CCOCC1 | C4H8O2
reactant | water | 15 mL | O | H2O
solvent | MeOH | 15 mL | CO | CH4O
product | 5-Methoxy-2-thienyl 2-trifluoromethylthieno[3,2-d]pyrimidin-4-ylmethanone | 0.124 g, 71% | COC1=CC=C(S1)C(=O)C=1C2=C(N=C(N1)C(F)(F)F)C=CS2 | C13H7F3N2O2S2
